US09056859B2
Step D: tert-butyl (±)-9H-fluoren-9-ylmethyl 2,5-diazabicyclo[4.1.0]heptane-2,5-dicarboxylate
In a pre-dried round bottom flask, tert-butyl 9H-fluoren-9-ylmethyl 2,3-dihydropyrazine-1,4-dicarboxylate (1.5 g, 3.69 mmol) was dissolved in anhydrous ether (80 ml) under N2. Diethylzinc (27.4 ml, 27.4 mmol) in ether (1M) was added in via syringe. Diiodomethane (1.904 ml, 23.60 mmol) was added. Let reaction stir at room temperature overnight. On next day, reaction was quenched by adding 5 mL of saturated aqueous NH4Cl. Reaction mixture was filtered over a pad of Celite® and filtering cake was washed with ether (25 mL×2). Then layers were separated and aqueous portion was extracted with ether (50 mL). The combined organic phases were washed with water (50 mL) and brine (50 mL), dried over anhydrous Na2SO4. Concentration at reduced pressure afforded crude product that was purified by silica gel column chromatography (40 gram silica gel column, eluted with 0-100% EtOAc/Hexane gradient). Removing solvent gave the title compound. 1H NMR (ppm) (500 MHz, CDCl3): δ 7.76 (2H, d, J=7.59 Hz), 7.66-7.53 (2H, m), 7.40 (2H, t, J=7.50 Hz), 7.31 (2H, t, J=7.45 Hz), 4.52-4.44 (2H, m), 4.26 (1H, t, J=7.13 Hz), 3.62-2.90 (6H, m), 1.50 (9H, s), 1.25-0.89 (1H, m). 0.55-0.39 (1H, m); LC/MS (M+23)+=443.13;

reactant | tert-butyl 9H-fluoren-9-ylmethyl 2,3-dihydropyrazine-1,4-dicarboxylate | 3.69 mmol, 1.5 g | N1(CCN(C=C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC(C)(C)C | C24H26N2O4
reactant | Diethylzinc | 27.4 mmol, 27.4 ml | C(C)[Zn]CC
reactant | Diiodomethane | 23.60 mmol, 1.904 ml | ICI | CH2I2
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ether | 1M | CCOCC | C4H10O
product | tert-butyl (±)-9H-fluoren-9-ylmethyl 2,5-diazabicyclo[4.1.0]heptane-2,5-dicarboxylate | C12N(CCN(C2C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC(C)(C)C | C25H28N2O4
